US06653307B2
As shown in Chart J, compounds of the formula J.1 (n=1 or 2) are converted the corresponding imidazolide with 1,1′-carbonyldiimidazole and treated with the trimethylsilyl ester of ethyl hydrogen malonate in the presence of DBU (Wang, X.; Monte, W. T.; Napier, J. J.; Ghannam, A. Tetrahedron Lett. 1994, 35, 9323-9326) to provide 3-ketoester J.2. Condensation of J.2 with triethylorthoformate in acetic anhydride at 150° C. affords an intermediate enol ether which is further condensed with aniline or a substituted aniline in an alcohol solvent to afford the enamine J.3. Ring cyclization is affected by treating J.3 with an appropriate base such as sodium hydride, potassium tert-butoxide, or potassium carbonate in a solvent such as tetrahydrofuran, tert-butanol, dioxane, or dimethylformamide to provide quinoline derivatives of the formula J.4. The resulting ester J.4 is then treated with a benzylamine (e.g. 4-chlorobenzylamine, 4-bromobenzylamine, or 4-fluorobenzylamine) at high temperature to afford the corresponding amides of the general formula J.5 or ester J.4 is saponified to afford the corresponding acid which is then coupled with a benzylamine to likewise provide amides of the general formula J.5. Treatment of compound J.5 with methanesulfonyl chloride followed by displacement with an amine, HNR7R8 wherein R7 and R8 are the same as defined above, affords compounds of the structure described by Formula J.6.

reactant | sodium hydride | [H-].[Na+]
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
